US05281602
Ethyl 1-(2,2-dimethyl-1-oxopropyl)-4-oxo-3-piperidinecarboxylate
To a mixture of 2.0 g of 3-carbethoxy-4-piperidone hydrochloride and 20 ml of 1M sodium carbonate is cooled in an ice bath and rapidly treated with 1.3 ml of trimethylacetyl chloride. Stirring is continued in the cold for 1.5 hours. The reaction mixture is filtered and the collected solid washed with water, air dried and then dried at 56° C. for 1.25 hours under high vacuum to afford 1.4 g of the desired product as a colorless solid, m.p. 46°-50° C.

reactant | 3-carbethoxy-4-piperidone hydrochloride | 2.0 g | Cl.C(=O)(OCC)C1CNCCC1=O
reactant | trimethylacetyl chloride | 1.3 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | sodium carbonate | 1M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl 1-(2,2-dimethyl-1-oxopropyl)-4-oxo-3-piperidinecarboxylate | 1.4 g | CC(C(=O)N1CC(C(CC1)=O)C(=O)OCC)(C)C | C13H21NO4
